US05220020
N-benzylsuccinimide (0.38 g, 2.0 mmol), triethoxysilane (1.85 mL, 10 mmol), and titanium (IV) isopropoxide (0.06 mL, 0.2 mmol) were dissolved in C6H6 (4.0 mL) and the mixture was heated to 60 ° C. for 16 hours. The solvent was removed in vacuo and the reaction mixture was poured into a mixture of 1 M NaOH (10 mL) and THF (10 mL). This mixture was stirred for 1 hour, poured into ethyl ether (75 mL), and washed with 1 M NaOH (5×50 mL). The ether layer was dried over MgSO4, filtered, and the solvent was removed in vacuo to produce 0.29 g (91% yield) of N-benzylpyrrole as a yellow oil.

reactant | N-benzylsuccinimide | 2.0 mmol, 0.38 g | C(C1=CC=CC=C1)N1C(CCC1=O)=O | C11H11NO2
reactant | triethoxysilane | 10 mmol, 1.85 mL | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | C6H6 | 4.0 mL | C1=CC=CC=C1 | C6H6
catalyst | titanium (IV) isopropoxide | 0.2 mmol, 0.06 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-benzylpyrrole | 0.29 g, 91% yield | C(C1=CC=CC=C1)N1C=CC=C1 | C11H11N
